US09226501B2
Preparation of 4-(Bromomethyl)-3-chlorobenzaldehyde (CI14)
To a stirred solution of 4-(bromomethyl)-3-chlorobenzonitrile (4.8 g, 17 mmol) in toluene (50 mL) at 0° C. was added dropwise DIBA1-H (1.0 M solution in toluene; 23.9 mL), and the reaction mixture was stirred at 0° C. for 1 h. 10 M HCl in water (5 mL) was added until the reaction mixture turned to a white slurry and then additional 1 N HCl (20 mL) was added. The organic layer was collected and the aqueous layer was extracted with CHCl3. The combined organic layer was dried over Na2SO4 and concentrated under reduced pressure. The crude compound was purified by flash column chromatography (SiO2, 100-200 mesh; 5% EtOAc in n-Hexane) to afford the title compound as a white solid (3.8 g, 80%): mp 64-66° C.; 1H NMR (400 MHz, CDCl3) δ 10.00 (s, 1H), 7.92 (s, 1H), 7.78 (d, J=8.0 Hz, 1H), 7.64 (d, J=8.0 Hz, 1H), 4.60 (s, 2H); ESIMS m/z 232.78 ([M+H]+).

reactant | 4-(bromomethyl)-3-chlorobenzonitrile | 17 mmol, 4.8 g | BrCC1=C(C=C(C#N)C=C1)Cl | C8H5BrClN
reactant | HCl | 10 M | Cl | ClH
reactant | HCl | 1 N, 20 mL | Cl | ClH
reactant | water | 5 mL | O | H2O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(Bromomethyl)-3-chlorobenzaldehyde | 3.8 g, 80% | BrCC1=C(C=C(C=O)C=C1)Cl | C8H6BrClO
